US07319109B2
b) tert-Butyl -{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenylcarbamate
A solution of tert-butyl 4-hydroxy-2-methylphenylcarbamate (3.0 g, 13.4 mmol), triphenylphosphine (3.53 g, 13.4 mmol), and [3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methanol (3.85 g, 13.4 mmol) in dichloromethane (40 mL) at 0° C. was treated with a solution of diisopropylazidodicarboxylate (2.65 mL, 13.4 mmol) in dichloromethane (10 mL) dropwise. The reaction was allowed to stir at 0° C. for 30 minutes, then warmed to ambient temperature for 1 h after which time the solvent was removed in vacuo. The resulting oil was chromatographed on silica gel eluting with 20% ethyl acetate/hexanes. Yield=4.34 g (66%) of tert-butyl 4-{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenylcarbamate.

reactant | tert-butyl 4-hydroxy-2-methylphenylcarbamate | 13.4 mmol, 3.0 g | OC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)C | C12H17NO3
reactant | triphenylphosphine | 13.4 mmol, 3.53 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | [3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methanol | 13.4 mmol, 3.85 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1CO)C(C)C | C13H13Cl2NO2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | tert-Butyl -{[3-(2,6-dichlorophenyl)-5-isopropylisoxazol-4-yl]methoxy}-2-methylphenylcarbamate | C(C)(C)(C)OC(N(C1=C(C=CC=C1)C)OCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl)=O | C25H28Cl2N2O4
